US06414148B1
A solution of 4-(pyrrolidin-1-yl)but-2-yn-1-ol (4.3 g, 31 mmol) in THF (20 ml) was added dropwise to a suspension of lithium aluminum hydride (2.35 g, 62 mmol) in anhydrous THF (8 ml) and the mixture stirred and heated at 60° C. for 2 hours. The mixture was cooled to 5° C. and 2M aqueous sodium hydroxide solution (28 ml) was added dropwise. The resulting suspension was filtered and the volatiles removed from the filtrate by evaporation. The residue was dissolved in a mixture of methylene chloride/ethyl acetate, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography on aluminum oxide eluting with methylene chloride/methanol (97/3) to give (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol (3.09 g, 70%).

reactant | 4-(pyrrolidin-1-yl)but-2-yn-1-ol | 31 mmol, 4.3 g | N1(CCCC1)CC#CCO | C8H13NO
reactant | lithium aluminum hydride | 62 mmol, 2.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2M, 28 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol | 3.09 g, 70% | N1(CCCC1)C/C=C/CO | C8H15NO
